US05294706
A mixture of 40 g of methyl (2R,3S)-2,3-epoxy-3-(4-methoxyphenyl)propionate, 26.5 g of 2-aminothiophenol and 300 ml of xylene is heated at 110° to 120° C. for 1 hour, whereby the reaction mixture containing methyl (2S,3S)-3-[(2-aminophenyl)thiol]-2-hydroxy-3-(4-methoxylphenyl)propionate is obtained. 380 mg of methanesulfonic acid are added to the mixture and the mixture is refluxed for 7 hours. During the reaction, methanol formed is removed by the azeotropic distillation with xylene. The mixture is cooled to under 10° C. and then stirred for 1 hour. Precipitated crystals are collected by filtration, washed with cooled methanol and then dried, whereby 49.1 g of (2S,3S)-3-hydroxy-2-(4-methoxyphenyl)-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are obtained. Yield: 84.8% m.p.: 204°-205° C. [α]D20 +115° (c=0.5, dimethylformamide)

reactant | methyl (2R,3S)-2,3-epoxy-3-(4-methoxyphenyl)propionate | 40 g | O1[C@@H](C(=O)OC)[C@@H]1C1=CC=C(C=C1)OC | C11H12O4
reactant | 2-aminothiophenol | 26.5 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | methanesulfonic acid | 380 mg | CS(=O)(=O)O | CH4O3S
solvent | methanol | CO | CH4O
product | (2S,3S)-3-hydroxy-2-(4-methoxyphenyl)-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 49.1 g, Yield: 84.8% | O[C@@H]1[C@@H](SC2=C(NC1=O)C=CC=C2)C2=CC=C(C=C2)OC | C16H15NO3S
